US04517184
Reaction of 9.5 g (0.05 mol) of 2,6-dichlorobenzoic acid and 7.5 g (0.05 mol) of 1,2-dimethoxy-4-methylbenzene, in a manner analogous to that of Example 3(a), yields (2,6-dichlorophenyl)-(3,4-dimethoxy-6-methyl-phenyl)-methanone as colourless crystals, m.p. 101°-103° C.

reactant | 2,6-dichlorobenzoic acid | 0.05 mol, 9.5 g | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | 1,2-dimethoxy-4-methylbenzene | 0.05 mol, 7.5 g | COC1=C(C=C(C=C1)C)OC | C9H12O2
product | (2,6-dichlorophenyl)-(3,4-dimethoxy-6-methyl-phenyl)-methanone | ClC1=C(C(=CC=C1)Cl)C(=O)C1=CC(=C(C=C1C)OC)OC | C16H14Cl2O3
